US04937373
To 1.40 g of 6-(3,4-dimethoxyphenyl)hexan-1-ol in 25 mL of methylene chloride cooled in a ethanol-dry ice bath was added 4.6 mL of 1.35M chlorine in methylene chloride. The reaction mixture was kept at -75° for 1.5 hours, at -18° for 16 hours and then at 0° for 24 hours. After concentration under reduced pressure, the crude product was purified by HPLC to give 6-(6-chloro-3,4-dimethoxyphenyl)hexane-1-ol as an oil. The nmr spectrum was consistent with the structure and the mass spectrum gave a molecular ion at m/z 272 (C14H21ClO3).

reactant | 6-(3,4-dimethoxyphenyl)hexan-1-ol | 1.40 g | COC=1C=C(C=CC1OC)CCCCCCO | C14H22O3
reactant | chlorine | 1.35M, 4.6 mL | ClCl | Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-(6-chloro-3,4-dimethoxyphenyl)hexane-1-ol | ClC1=CC(=C(C=C1CCCCCCO)OC)OC | C14H21ClO3
